US06136823
Synthesis of 8-Chloro-1-(2,4-difluoro-5-methoxyphenyl)-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
8-Chloro-6,7-difluoro-1-(2,4-difluoro-5-methoxyphenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (90 mg) and an aqueous solution (about 40%; 200 mg) of methylamine were added to pyridine (520 mg), and the mixture was stirred at room temperature for 66 hours. The reaction mixture was concentrated under reduced pressure, and ethanol (1 ml) was added to the residue. Deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (88 mg) as a colorless powder.

reactant | 8-Chloro-6,7-difluoro-1-(2,4-difluoro-5-methoxyphenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 90 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=C(C=C(C(=C1)OC)F)F)C(=O)O)=O)F)F | C17H8ClF4NO4
reactant | methylamine | 200 mg | CN | CH5N
solvent | pyridine | 520 mg | N1=CC=CC=C1 | C5H5N
product | 8-Chloro-1-(2,4-difluoro-5-methoxyphenyl)-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 88 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=C(C=C(C(=C1)OC)F)F)C(=O)O)=O)F)NC | C18H12ClF3N2O4
